US09351974B2
Step e: Synthesis of 2-methyl-1-(3-methylbutyl)-4-phenyl-7-{[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl]amino}-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one
To a stirred mixture of 7-chloro-2-methyl-1-(3-methylbutyl)-4-phenyl-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one (25.00 mg, 0.073 mmol) and 5-amino-1-(tetrahydropyranyl)-1H-indazole (23 mg, 0.11 mmol) in toluene (2.00 mL) was added bis(dibenzylideneacetone)palladium (10.0 mg, 0.011 mmol), 2,2′-Bis-diphenylphosphanyl-[1,1′]binaphthalenyl (13.5 mg, 0.022 mmol) and Cs2CO3 (71 mg, 0.22 mmol). The resulting mixture was heated at 95° C. for 5 h. LC-MS indicated completion of reaction. The bulk of solvent was removed under reduced pressure to give a crude residue, which was purified by flash column chromatography on silica gel (eluent: 2% methanol in dichloromethane) to give the desired product: (Yield: 65%) MS(ES+): m/z 525.21 [MH+]. HPLC: tR=3.26 (ZQ3, Polar_5 min).

reactant | 7-chloro-2-methyl-1-(3-methylbutyl)-4-phenyl-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one | 0.073 mmol, 25.00 mg | ClC1=CC2=C(N(C(C(N2CCC(C)C)C)=O)C2=CC=CC=C2)C=N1 | C19H22ClN3O
reactant | 5-amino-1-(tetrahydropyranyl)-1H-indazole | 0.11 mmol, 23 mg | NC=1C=C2C=NN(C2=CC1)C1OCCCC1 | C12H15N3O
reactant | 2,2′-Bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.022 mmol, 13.5 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | Cs2CO3 | 0.22 mmol, 71 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 2.00 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium | 0.011 mmol, 10.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 2-methyl-1-(3-methylbutyl)-4-phenyl-7-{[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl]amino}-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one | Yield: 65% | CC1N(C2=C(N(C1=O)C1=CC=CC=C1)C=NC(=C2)NC=2C=C1C=NN(C1=CC2)C2OCCCC2)CCC(C)C | C31H36N6O2
